US07288544B2
2) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester
808 mg (1.46 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3,3-diphenylpropyl) ester was dissolved in 15 ml of methanol. 3 ml of 1 N aqueous sodium hydroxide solution was added and stirred at room temperature for 2 hours. After adding 2 N hydrochloric acid, methanol was evaporated under reduced pressure. Water was added to the residue, and solid matters were taken by the filtration, then washed with water and hexane/ethyl acetate (3/1) and dried under reduced pressure to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3,3-diphenylpropyl) ester | 1.46 mmol, 808 mg | C1(=CC=CC=C1)C(CCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCC#N)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C33H31ClN2O4
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C)C1=CC=CC=C1 | C30H28ClNO4
